US07368467B2
A solution of 2-bromo-1-(4-fluoro-phenyl)-ethanone (2.5 g, 11.5 mmol) in DMSO (15 mL) at 10° C. was vigorously stirred and sodium azide (0.94 g, 14.4 mmol) was added. The mixture was stirred for I hour then quenched with water (20 mL) and extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with water (25 mL) and brine (25 mL), dried over anhydrous sodium sulfate, filtered and concentrated under reduce pressure to give 2-azido-1-(4-fluoro-phenyl)-ethanone (1.7 g, 9.3 mmol) as a viscous yellow-red liquid.

reactant | 2-bromo-1-(4-fluoro-phenyl)-ethanone | 11.5 mmol, 2.5 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | sodium azide | 14.4 mmol, 0.94 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 2-azido-1-(4-fluoro-phenyl)-ethanone | 9.3 mmol, 1.7 g | N(=[N+]=[N-])CC(=O)C1=CC=C(C=C1)F | C8H6FN3O
